US04353900
A solution of 2.5 g of 1-oxa-4,9-diazaspiro[5.5]undecan-3-one and 5 ml of 4-iodo-p-fluorobutyrophenone in 60 ml of dimethylformamide and 10 ml of triethylamine was heated at 60° C. for 10 hours. The mixture was poured into water, extracted with methylene chloride, and the methylene chloride layer was extracted with aqueous 5% HCl. Basification of the aqueous extract with ammonium hydroxide and extraction with methylene chloride followed by evaporation gave a residue which was crystallized from ethyl acetate-hexane to give 9-[3-(4-fluorobenzoyl)propyl]-1-oxa-4,9-diazaspiro[5.5]undecan-3-one, m.p. 117°-118° C. The HCl salt of 9-[3-(4-fluorobenzoyl)propyl]-1-oxa-4,9-diazaspiro[5.5]undecan-3-one was prepared by dissolving the base in methanolic HCl and precipitating with ether, m.p. 225°-230° C.

reactant | 1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 2.5 g | O1CC(NCC12CCNCC2)=O | C8H14N2O2
reactant | 4-iodo-p-fluorobutyrophenone | 5 ml | ICCCC(=O)C1=CC=C(C=C1)F | C10H10FIO
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 9-[3-(4-fluorobenzoyl)propyl]-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | FC1=CC=C(C(=O)CCCN2CCC3(CNC(CO3)=O)CC2)C=C1 | C18H23FN2O3
